US06969725B2
In analogy to the procedure described in example 1 f], (2S)-2-ethoxy-3-(2-ethyl-4-hydroxy-phenyl)-propionic acid methyl ester (example 8 g]) was reacted with 4-chloromethyl-2-(4-isopropoxy-phenyl)-5-methyl-oxazole (example 2 b]) in the presence of cesium carbonate and potassium iodide to yield (S)-2-ethoxy-3-{2-ethyl-4-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-propionic acid methyl ester as colorless liquid.

reactant | (2S)-2-ethoxy-3-(2-ethyl-4-hydroxy-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)O)CC)OCC)=O | C14H20O4
reactant | 4-chloromethyl-2-(4-isopropoxy-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)OC(C)C | C14H16ClNO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (S)-2-ethoxy-3-{2-ethyl-4-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC=C(C=C1)OC(C)C)CC)OCC)=O | C28H35NO6
